US04882201
In accordance with the procedure of Example 1, octadecyl phenyl ether was prepared and a quantitative yield was obtained. There was added 50 ml of glacial acetic acid to a mixture of 196 grams (0.5 mol) of phenyliodoso tosylate and 173 grams (0.5 mols) of octadecyl phenyl ether dissolved in 200 ml dicholoromethane. After 1 hour stirring at 40° C., the reaction mixture was filtered then triturated with ether. A product, (4-octadecyloxyphenyl)phenyliodonium tosylate crystallized from solution and was recovered by filtration. There was obtained 340 grams (94.4% yield). The entire amount of the tosylate salt was dissolved in 1000 ml of hot acetone and 125 grams of sodium hexafluoroantimonate was added. The reaction mixture was stirred for 1 hour and the solution filtered to remove the sodium tosylate. The main filtrate was triturated with water and a white crystalline product (4-octadecyloxyphenyl)phenyliodonium hexafluoroantimonate was obtained. Recrystallization from ethanol/water gave the pure iodonium salt having a melting point of 94° C. and an 83 % yield. The acute oral toxicity of this photoinitiator was found to be greater than 5 g/kg. No toxic effects were observed during the 14 day test period and all the test animals (rats) gained weight during the test period.

reactant | octadecyl phenyl ether | C1(=CC=CC=C1)OCCCCCCCCCCCCCCCCCC | C24H42O
reactant | phenyliodoso tosylate | 0.5 mol, 196 grams | S(=O)(=O)(O[IH](=O)C1=CC=CC=C1)C1=CC=C(C)C=C1 | C13H13IO4S
reactant | octadecyl phenyl ether | 0.5 mols, 173 grams | C1(=CC=CC=C1)OCCCCCCCCCCCCCCCCCC | C24H42O
reactant | tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | sodium hexafluoroantimonate | 125 grams | F[Sb-](F)(F)(F)(F)F.[Na+]
solvent | acetone | 1000 ml | CC(=O)C | C3H6O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | (4-octadecyloxyphenyl)phenyliodonium hexafluoroantimonate | quantitative yield | F[Sb-](F)(F)(F)(F)F.C(CCCCCCCCCCCCCCCCC)OC1=CC=C(C=C1)[I+]C1=CC=CC=C1 | InChI=1S/C30H46IO.6FH.Sb/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-20-27-32-30-25-23-29(24-26-30)31-28-21-18-17-19-22-28;;;;;;;/h17-19,21-26H,2-16,20,27H2,1H3;6*1H;/q+1;;;;;;;+5/p-6
